US04151187
A mixture consisting of 1.25 parts of 4-methyl-1,5-octadiyn-4(RS)-ol, 1.5 parts of triethylsilyl chloride, 2.5 parts by volume of dimethylformamide and 1 part by volume of triethylamine was stirred in an atmosphere of nitrogen at room temperature for about 24 hours. The mixture was then poured into benzene and diluted with water. The layers were separated and the organic layer was washed successively with dilute hydrochloric acid, water and saturated aqueous potassium bicarbonate, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. Adsorption of the residue on a silica gel chromatographic column followed by elution with hexane afforded 4-methyl-1,5-octadiyn-4(RS)-ol triethylsilyl ether.

reactant | 4-methyl-1,5-octadiyn-4(RS)-ol | CC(CC#C)(C#CCC)O | C9H12O
reactant | triethylsilyl chloride | C(C)[Si](CC)(CC)Cl | C6H15ClSi
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-methyl-1,5-octadiyn-4(RS)-ol triethylsilyl ether | C(C)[Si](CC)(CC)OC(CC#C)(C#CCC)C | C15H26OSi
